US07687664B2
2-Benzyloxy-4-bromophenol
12 g of 2-Benzyloxyphenol was dissolved in 300 ml of acetonitrile, 10.7 g of N-bromosuccinimide was added thereto, and the mixture was stirred at room temperature for 2 hours. Additional N-bromosuccinimide (1 g) was added thereto and the mixture was stirred for 1 hour, and further additional N-bromosuccinimide (1 g) was added thereto and the mixture was stirred for 2 hours. The reaction mixture was concentrated, and the residue was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 14.927 g of the title compound in the 10:1 hexane-ethyl acetate fraction.

reactant | 2-Benzyloxyphenol | 12 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | N-bromosuccinimide | 10.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-Benzyloxy-4-bromophenol | 14.927 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)O | C13H11BrO2
